US06476038B1
F. Cyclopentyl-{2-[3-(2,3-dichloro-phenyl)-2,5-dimethyl-pyrazolo[1,5-a]pyrimidin-7-ylamino]-ethyl}-carbamic acid tert-butyl ester
A suspension of cyclopentyl-[2-(3-iodo-2,5-dimethyl-pyrazolo[1,5-a]pyrimidin-7-ylamino)-ethyl]-carbamic acid tert-butyl ester (38 mg, 0.076 mmol) and 2,3-dichlorobenzeneboronic acid in toluene (0.5 mL)/ethanol (0.5 mL)/2 M aqueous sodium carbonate (0.22 mL) was degassed (3×) by alternately pulling a vacuum followed by repressurization with nitrogen. Tetrakis(triphenylphosphine)palladium (10 mg, 0.009 mmol) was added, and the mixture was degassed (3×) again. The mixture was stirred for 2.5 hours at 100° C., concentrated under reduced pressure, and then chromatographed (4:1 hexanes/ethyl acetate) to give the product as colorless oil (24 mg, 60%): +APcI MS (M+1)+ 518; 1H NMR (CDCl3) δ7.42 (dd, 1 H), 7.30 (dd, 1H), 7.22 (t, 1H), 5.84 (s, 1H ), 4.25-4.10 (br s, 1H), 3.49 (s, 4H), 2.44 (s, 3H), 2.32 (s, 3H), 1.52 (s, 9H).

reactant | cyclopentyl-[2-(3-iodo-2,5-dimethyl-pyrazolo[1,5-a]pyrimidin-7-ylamino)-ethyl]-carbamic acid tert-butyl ester | 0.076 mmol, 38 mg | C(C)(C)(C)OC(N(CCNC1=CC(=NC=2N1N=C(C2I)C)C)C2CCCC2)=O | C20H30IN5O2
reactant | 2,3-dichlorobenzeneboronic acid | ClC1=C(C=CC=C1Cl)B(O)O | C6H5BCl2O2
reactant | ethanol | 0.5 mL | C(C)O | C2H6O
reactant | sodium carbonate | 2 M, 0.22 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | toluene | 0.5 mL | C1(=CC=CC=C1)C | C7H8
catalyst | Tetrakis(triphenylphosphine)palladium | 0.009 mmol, 10 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | Cyclopentyl-{2-[3-(2,3-dichloro-phenyl)-2,5-dimethyl-pyrazolo[1,5-a]pyrimidin-7-ylamino]-ethyl}-carbamic acid tert-butyl ester | 24 mg, 60% | C(C)(C)(C)OC(N(CCNC1=CC(=NC=2N1N=C(C2C2=C(C(=CC=C2)Cl)Cl)C)C)C2CCCC2)=O | C26H33Cl2N5O2
